US06013658
2-((1R)-1-(tert-Butoxycarbonylamino)-2-(2-naphthyl)ethyl)-5-phenyl-1,3-thiazole-4-carboxylic acid methylester (0.35 g; 0.716 mmol) was dissolved in ethanol (99%; 40 ml) and lithium hydroxide (0.112 g; 4.654 mmol) was added. The reaction mixture was stirred 12 hours at room temperature. The solvent was removed in vacuo and the residue was dissolved in water (50 ml) and diethyl ether (50 ml). The solution was made acidic with sodium hydrogensulfate (10%), and the organic phase was dried (magnesium sulfate). The solvent was removed in vacuo to afford 0.185 g of 2-((1R)-1-(tert-butoxycarbonylamino)-2-(2-naphthyl)ethyl)-5-phenyl-1,3-thiazole-4-carboxylic acid.

reactant | 2-((1R)-1-(tert-Butoxycarbonylamino)-2-(2-naphthyl)ethyl)-5-phenyl-1,3-thiazole-4-carboxylic acid methylester | 0.716 mmol, 0.35 g | COC(=O)C=1N=C(SC1C1=CC=CC=C1)[C@@H](CC1=CC2=CC=CC=C2C=C1)NC(=O)OC(C)(C)C | C28H28N2O4S
reactant | lithium hydroxide | 4.654 mmol, 0.112 g | [OH-].[Li+]
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 2-((1R)-1-(tert-butoxycarbonylamino)-2-(2-naphthyl)ethyl)-5-phenyl-1,3-thiazole-4-carboxylic acid | 0.185 g | C(C)(C)(C)OC(=O)N[C@H](CC1=CC2=CC=CC=C2C=C1)C=1SC(=C(N1)C(=O)O)C1=CC=CC=C1 | C27H26N2O4S
